US05721247
To a solution of N-benzyl-N-methyl[2-(4-nitrophenyl)ethyl]amine (3.9 g, 14.4 mmol) in 85% acetic acid (250 ml) was added in one portion zinc dust (9.4 g, 144 mmol). The reaction was stirred for 30 minutes, filtered, and concentrated. The residue was dissolved in water (50 ml), the solution basified with 2.5N aqueous sodium hydroxide and the mixture extracted with several portions of methylene chloride. The combined organic layers were dried over magnesium sulfate, filtered and concentrated to yield 4-(2-((phenylmethyl)(methyl)amino)ethyl)phenylamine (3.41 g, 98%). The dihydrochloride salt, from methanol-ethyl acetate, melted at 275° C. (dec).

reactant | N-benzyl-N-methyl[2-(4-nitrophenyl)ethyl]amine | 14.4 mmol, 3.9 g | C(C1=CC=CC=C1)N(C)CCC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N2O2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 144 mmol, 9.4 g | [Zn] | Zn
product | 4-(2-((phenylmethyl)(methyl)amino)ethyl)phenylamine | 3.41 g, 98% | C1(=CC=CC=C1)CN(CCC1=CC=C(C=C1)N)C | C16H20N2
